US04643990
To a solution of 3-hexadecanoyloxyoctadecanoic acid (55 g) and triethylamine (16 ml) in tetrahydrofuran (500 ml) was added ethyl chloroformate (11 ml) dropwise with stirring at -20° C., and the mixture was stirred for 1 hour at the same temperature. To the mixture was added triethylamine (32 ml) and then, a solution of dibenzyl N-(L-threonyl)-L-glutamate (77 g) in tetrahydrofuran (100 ml) dropwise and the mixture was stirred for 3 hours at room temperature. Tetrahydrofuran was removed under reduced pressure to give the residue which was taken up in ethyl acetate. The ethyl acetate solution was washed with diluted hydrochloric acid and diluted sodium bicarbonate and dried. Evaporation of the solvent gave the residue which was recrystallized from ethanol to leave dibenzyl N-[N-(3-hexadecanoyloxyoctadecanoyl)-L-threonyl]-L-glutamate (79 g).

reactant | 3-hexadecanoyloxyoctadecanoic acid | 55 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)O)CCCCCCCCCCCCCCC | C34H66O4
reactant | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 11 ml | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 32 ml | C(C)N(CC)CC | C6H15N
reactant | dibenzyl N-(L-threonyl)-L-glutamate | 77 g | N[C@@H]([C@H](O)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C23H28N2O6
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | dibenzyl N-[N-(3-hexadecanoyloxyoctadecanoyl)-L-threonyl]-L-glutamate | 79 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)CCCCCCCCCCCCCCC | C57H92N2O9
